US09428512B2
Intermediate 8: 2-Butyl-6-methyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one
Aqueous sodium hydroxide solution (6M, 138 mL) was added dropwise to a solution of ethyl 5-methyl-3-pentanimidamido-1H-pyrrole-2-carboxylate (58.9 g, 0.2 mol) in ethanol (550 mL) cooled in an ice-bath. The reaction mixture was heated at reflux for 2.5 hours then cooled to room temperature. Water (700 mL) was added and the pH adjusted to pH 6.5 using aqueous citric acid (2M). The resultant mixture was stirred for 45 minutes then filtered and the solid material washed with water. The material was dried in a vacuum oven at 50° C. to give the title compound.

reactant | sodium hydroxide | 6M, 138 mL | [OH-].[Na+]
reactant | ethyl 5-methyl-3-pentanimidamido-1H-pyrrole-2-carboxylate | 0.2 mol, 58.9 g | CC1=CC(=C(N1)C(=O)OCC)NC(CCCC)=N | C13H21N3O2
reactant | Water | 700 mL | O | H2O
reactant | citric acid | 2M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 550 mL | C(C)O | C2H6O
product | 2-Butyl-6-methyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one | C(CCC)C=1NC(C2=C(N1)C=C(N2)C)=O | C11H15N3O
